US04296120
N-Decyl-3-(3-[4-(2-[N,N-diethylamino]ethoxycarbonyl)-2-oxo-pyrrolidino]phenyl)propenamide
To a stirred solution of 829 mg. of N-decyl-3-(3-[4-carboxy-2-oxo-pyrrolidino]phenyl)propenamide in 25 ml. of tetrahydrofuran was added 357 mg. of carbonyldiimidazole. The mixture was heated under reflux for 10 minutes, and then 258 mg. of 2-(N,N-diethylamino)ethanol was added. The mixture was again heated under reflux for 10 minutes, and then an additional 258 mg. of 2-(N,N-diethylamino)-ethanol was added. The mixture was heated under reflux for 15 minutes and then it was cooled to room temperature. The solvent was removed by evaporation in vacuo, and the residue was dissolved in 75 ml. of ethyl acetate. The ethyl acetate solution was washed successively with water, 1 N sodium hydroxide, water and saturated sodium chloride solution. The ethyl acetate solution was then dried using sodium sulfate, and the ethyl acetate was removed by evaporation in vacuo. The residue (960 mg.) was recrystallized from isopropyl ether giving 570 mg. of the title compound, m.p. 78°-80° C.

reactant | N-decyl-3-(3-[4-carboxy-2-oxo-pyrrolidino]phenyl)propenamide | C(CCCCCCCCC)NC(C=CC1=CC(=CC=C1)N1C(CC(C1)C(=O)O)=O)=O | C24H34N2O4
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(N,N-diethylamino)ethanol | C(C)N(CC)CCO | C6H15NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-Decyl-3-(3-[4-(2-[N,N-diethylamino]ethoxycarbonyl)-2-oxo-pyrrolidino]phenyl)propenamide | C(CCCCCCCCC)NC(C=CC1=CC(=CC=C1)N1C(CC(C1)C(=O)OCCN(CC)CC)=O)=O | C30H47N3O4
